US04959363
A mixture of 4.34 g ethyl 7-chloro-1,4-dihydro1-(4-fluorophenyl)-4-oxo-3-quinolinecarboxylate, 6.55 g 3-methyl-5-trimethylstannylthiazole and 1.52 g dichloro- bis-triphenylphosphine palladium in 150 ml absolute ethanol was heated at 150° C. in a stirred stainless steel bomb for about 16 hrs. The product was isolated and chromatographed on silica gel. Elution with 1:1 ethyl acetate/hexane and 100% ethyl acetate gave 2.67 g ethyl 1,4-dihydro-1-(4-fluorophenyl)-7-(3-methyl-5-thiazolyl)-4- oxo-3-quinolinecarboxylate as a yellow solid.

reactant | ethyl 7-chloro-1,4-dihydro1-(4-fluorophenyl)-4-oxo-3-quinolinecarboxylate | 4.34 g | ClC1=CC=C2C(C(=CN(C2=C1)C1=CC=C(C=C1)F)C(=O)OCC)=O | C18H13ClFNO3
reactant | 3-methyl-5-trimethylstannylthiazole | 6.55 g | CN1CSC(=C1)[Sn](C)(C)C
solvent | ethanol | 150 ml | C(C)O | C2H6O
product | ethyl 1,4-dihydro-1-(4-fluorophenyl)-7-(3-methyl-5-thiazolyl)-4- oxo-3-quinolinecarboxylate | 2.67 g | FC1=CC=C(C=C1)N1C=C(C(C2=CC=C(C=C12)C1=CN(CS1)C)=O)C(=O)OCC | C22H19FN2O3S
